US08461196B2
Pursuant to steps a and b of Reaction Scheme 14, a solution of bromomaleic anhydride (52.8 g, 0.298 mol) in diethyl ether (250 mL) was cooled to 5° C. A 2 M solution of methylamine in THF (298 mL, 0.596 mol, 2 eq.) was added dropwise over 1 hour and the reaction stirred for a further 30 minutes, maintaining the temperature below 10° C. The resulting precipitate was filtered, washed with diethyl ether (2×100 mL) and air-dried for 30 minutes, then suspended in acetic anhydride (368 mL) and sodium acetate (12.2 g, 0.149 mol, 0.5 eq.) added. The reaction was heated to 60° C. for 2 hours and solvent was then removed in vacuo. The residue was taken up in DCM (500 mL) and washed with saturated sodium bicarbonate solution (2×500 mL) and water (2×300 mL). Organics were dried over MgSO4 (89 g), filtered and reduced in vacuo. The resulting oil was azeotroped with toluene (4×100 mL) to give N-methyl bromomaleimide as a beige solid. Yield=41.4 g (73%); 1H NMR (300 MHz, CDCl3) δ 6.95 (1H, s, CH), 3.07 (3H, s, NCH3).

reactant | bromomaleic anhydride | 0.298 mol, 52.8 g | Br/C=1/C(=O)OC(\C1)=O | C4HBrO3
reactant | methylamine | CN | CH5N
reactant | THF | 0.596 mol, 298 mL, 2 eq. | C1CCOC1 | C4H8O
reactant | sodium acetate | 0.149 mol, 12.2 g, 0.5 eq. | C(C)(=O)[O-].[Na+]
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | N-methyl bromomaleimide | CN1C(C(=CC1=O)Br)=O | C5H4BrNO2
